US07157464B2
Synthesis of 2-(4-Chloro-3,5-dimethyl-pyrazol-1-yl)-1-(4-pyridin-4-yl-piperazin-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-pyridyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 8.28 (d, 2H), 7.18 (d,2H), 5.41 (s, 2H), 3.83 (m,2H), 3.72 (m, 4H), 3.63 (m, 2H), 2.18 (s, 3H) ppm; MS (ES) M+H expected=388.1, found=388.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-pyridyl)piperazine | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-3,5-dimethyl-pyrazol-1-yl)-1-(4-pyridin-4-yl-piperazin-1-yl)-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC=NC=C1)C | C16H20ClN5O
